US07923568B2
To a solution of 2-benzyl-7-(2-fluoroethyl)-7,8-dihydrocyclopenta[e]indazol-6(2H)-one (11.8 g, 38.3 mmol) in dry THF (100 mL) were added 1,8-diazabicyclo[5.4.0]undec-7-ene (12 mL, 80 mmol) and methyl vinyl ketone (6.4 mL, 77 mmol) and the solution was heated to 55° C. After heating for 72 hours, analysis of an aliquot by 1H NMR showed the reaction to be complete. After cooling to room temperature, the solution was partitioned between 5% MeOH/CH2Cl2 and water and the organic phase was washed with 5% aqueous NaHCO3. The solvent was removed by evaporation under vacuum and the residue was purified by chromatography on silica gel (1:2 to 1:1 EtOAc/hexanes) to give 2-benzyl-7-(2-fluoroethyl)-7-(3-oxobutyl)-7,8-dihydrocyclopenta[e]indazol-6(2H)-one as an orange oil.

reactant | 2-benzyl-7-(2-fluoroethyl)-7,8-dihydrocyclopenta[e]indazol-6(2H)-one | 38.3 mmol, 11.8 g | C(C1=CC=CC=C1)N1N=C2C=CC3=C(C2=C1)CC(C3=O)CCF | C19H17FN2O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 80 mmol, 12 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methyl vinyl ketone | 77 mmol, 6.4 mL | C(=C)C(=O)C | C4H6O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-benzyl-7-(2-fluoroethyl)-7-(3-oxobutyl)-7,8-dihydrocyclopenta[e]indazol-6(2H)-one | C(C1=CC=CC=C1)N1N=C2C=CC3=C(C2=C1)CC(C3=O)(CCC(C)=O)CCF | C23H23FN2O2
